US06239151B1
A solution of 0.150 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4(RS)-hydroxyvaleryl)-2′-isobutyl-4-methylvalerohydrazide in 5 ml of methanol was treated with 0.015 g of p-toluenesulphonic acid monohydrate. The mixture was stirred at room temperature for 2 hours and evaporated. The residue was triturated with diethyl ether, filtered off and dried to give 0.027 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(4(RS)-hydroxyvaleryl)-2′-isobutyl-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4(RS)-hydroxyvaleryl)-2′-isobutyl-4-methylvalerohydrazide | 0.150 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(CCC(C)O)=O)CC(C)C | C31H49N3O6
reactant | p-toluenesulphonic acid monohydrate | 0.015 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 5 ml | CO | CH4O
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(4(RS)-hydroxyvaleryl)-2′-isobutyl-4-methylvalerohydrazide | 0.027 g | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(CCC(C)O)=O)CC(C)C | C26H41N3O5
